US08124606B2
Compound 135A: 3-chloro-4-fluoro-N-isopropylbenzamide:
Using isopropylamine hydrochloride and 3-chloro-4-fluorobenzoic acid in the general procedure for coupling of amines to carboxylic acids, the title compound was obtained (81% yield) as a white solid. ESI-MS: m/z 216 (M+H)+.

reactant | isopropylamine hydrochloride | Cl.C(C)(C)N
reactant | 3-chloro-4-fluorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1F | C7H4ClFO2
product | 3-chloro-4-fluoro-N-isopropylbenzamide | 81% yield | ClC=1C=C(C(=O)NC(C)C)C=CC1F | C10H11ClFNO
